US05420028
PURIFICATION OF THE BACTERIALLY EXPRESSED HUMAN CHOLESTEROL 7α-HYDROXYLASES
After induction, the cultures were harvested by centrifugation at 5,000 rpm for ten minutes at 4° C. The cells were then resuspended in 1/100 volume of buffer A (100 mM potassium phosphate, pH 7.4, 0.5% sodium cholate, 20% glycerol, 0.1 mM EDTA, 0.1 mM DTT and 0.5 mM PMSF). The cells were then lysed in buffer A with 200 μg/ml lysozyme. The supernatant was collected after spinning down the total lysate at 100,000× g for one (1) hour at 4° C. The pellet was resuspended thoroughly in the same buffer and centrifuged again. Both supernatants were combined and stored on ice overnight after the addition of 100 units of DNaseI. The clear lysate was then applied to an Octylamino Sepharose 4B column (2.6×15 cm). This column was washed and eluted with the same buffer. The eluted fractions were dialyzed against buffer B (10 mM potassium phosphate, pH 7.4, 0.2% sodium cholate, 0.2% Emulgen 911, 0.1 mMEDTA, 0.05 mMDTT, 0.5 mM phenyl methyl sufonyl fluoride (PMSF)), applied to a hydroxyapatite column (2.4×7 cm) and equilibrated with the same buffer. This column was then washed with 200 ml of 10 mM potassium phosphate buffer, then with 150 ml of 50 mM potassium phosphate buffer and then eluted with 300 ml of 100 mM potassium phosphate buffer. These three buffers also contained 20% glycerol, 0.3% sodium cholate, 0.05 mM EDTA, 0.1 mM DTT and 0.5 mM PMSF. The purified sample was brought to 0.2% Emulgen 911 and then dialyzed against 10 mM potassium phosphate buffer, pH 7.4, 20% glycerol, 0.1 mM EDTA, 0.1 mM DTT, 0.5 mM PMSF and 0.2% Emulgen 911 (buffer C). The sample was then applied to a second hydroxylapatite column (0.5×3.0 cm) equilibrated with buffer C and eluted with buffer C but containing 360 mM potassium phosphate. At this stage, the purity of the human cholesterol 7α-hydroxylase was confirmed by SDS-polyacrylamide gel electrophoresis.

reactant | potassium phosphate | 100 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | sodium cholate | pH 7.4 | C[C@H](CCC(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@]2([C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C)O)C.[Na+]
reactant | EDTA | 0.1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | DTT | 0.1 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | PMSF | 0.5 mM | C1(=CC=CC=C1)CS(=O)(=O)F | C7H7FO2S
solvent | glycerol | OCC(O)CO | C3H8O3
product | CHOLESTEROL | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
